US07842688B2
a) Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-pyrrolidin-1-ylphenyl)piperidine-1-carboxylate
The mixture of 0.300 g of benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-trifluoromethanesulphonyloxyphenyl)piperidine-1-carboxylate, 0.043 ml of pyrrolidine, 0.041 g of (i)-2,2′-bis(diphenylphosphine)-1,1′-binaphthyl, 0.194 g of caesium carbonate and 0.0099 g of palladium(II) acetate in 3.0 ml of dioxane is stirred under argon at 100° C. over 20 hours. The reaction mixture is cooled, admixed with water (20 ml) and extracted with tert-butyl methyl ether (2×20 ml). The organic phases are washed successively with water (20 ml) and brine (20 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.40 (2:1 EtOAc-heptane); Rt=4.68.

reactant | benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-trifluoromethanesulphonyloxyphenyl)piperidine-1-carboxylate | 0.300 g | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=CC=C2 | C33H37F3N2O8S
reactant | pyrrolidine | 0.043 ml | N1CCCC1 | C4H9N
reactant | caesium carbonate | 0.194 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 20 ml | O | H2O
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.0099 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-pyrrolidin-1-ylphenyl)piperidine-1-carboxylate | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)N2CCCC2)C(=O)OCC2=CC=CC=C2 | C36H45N3O5
